* NGSPICE file created from adc_tgate_flat.ext - technology: sky130A

.subckt adc_tgate_flat A B EN ENB VDD VSS
X0 A.t0 EN.t0 B.t0 VSS.t0 sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.15
X1 A.t1 ENB.t0 B.t1 VDD.t0 sky130_fd_pr__pfet_01v8 ad=4.64 pd=32.58 as=4.64 ps=32.58 w=16 l=0.15
R0 ENB ENB.t0 2805.98
R1 A.n0 A.t1 20.8931
R2 A.n0 A.t0 15.3547
R3 A A.n0 0.868556
R4 B.n0 B.t1 20.8931
R5 B.n0 B.t0 15.3547
R6 B B.n0 0.521333
R7 EN EN.t0 1506.19
R8 VDD.n4 VDD.n1 6730.59
R9 VDD.n7 VDD.n3 6730.59
R10 VDD.n9 VDD.n8 717.929
R11 VDD.n8 VDD.n2 717.929
R12 VDD.n9 VDD.n0 717.929
R13 VDD.n2 VDD.n0 717.929
R14 VDD.n9 VDD.n1 92.5005
R15 VDD.n3 VDD.n2 92.5005
R16 VDD.n6 VDD.n1 90.6497
R17 VDD.n5 VDD.n3 90.6497
R18 VDD.n7 VDD.n6 44.0601
R19 VDD.n5 VDD.n4 44.0601
R20 VDD VDD.n9 9.363
R21 VDD.n8 VDD.n7 3.7005
R22 VDD.n4 VDD.n0 3.7005
R23 VDD.t0 VDD.n5 0.606514
R24 VDD.n6 VDD.t0 0.606514
R25 VSS.n4 VSS.n1 6361.94
R26 VSS.n7 VSS.n3 6361.94
R27 VSS.n9 VSS.n8 413.365
R28 VSS.n8 VSS.n2 413.365
R29 VSS.n9 VSS.n0 413.365
R30 VSS.n2 VSS.n0 413.365
R31 VSS.n9 VSS.n1 292.5
R32 VSS.n3 VSS.n2 292.5
R33 VSS.n6 VSS.n1 270.947
R34 VSS.n5 VSS.n3 270.947
R35 VSS.n7 VSS.n6 197.856
R36 VSS.n5 VSS.n4 197.856
R37 VSS.n8 VSS.n7 22.5005
R38 VSS.n4 VSS.n0 22.5005
R39 VSS VSS.n9 9.363
R40 VSS.t0 VSS.n5 9.09767
R41 VSS.n6 VSS.t0 9.09767
C0 A EN 0.13302f
C1 A VDD 0.95957f
C2 B A 2.47875f
C3 A ENB 0.23718f
C4 EN VDD 0.00213f
C5 B EN 0.13535f
C6 B VDD 0.92551f
C7 ENB VDD 0.25269f
C8 B ENB 0.2261f
C9 ENB VSS 0.29449f
C10 A VSS 1.37331f
C11 B VSS 1.34513f
C12 EN VSS 0.39624f
C13 VDD VSS 5.99415f
C14 VDD.n0 VSS 0.06739f
C15 VDD.n1 VSS 0.06839f
C16 VDD.n2 VSS 0.06839f
C17 VDD.n3 VSS 0.06839f
C18 VDD.n4 VSS 0.52475f
C19 VDD.t0 VSS 0.67857f
C20 VDD.n7 VSS 0.52475f
C21 VDD.n8 VSS 0.06739f
C22 VDD.n9 VSS 0.06841f
C23 B.t1 VSS 1.52132f
C24 B.t0 VSS 0.70644f
C25 B.n0 VSS 1.83911f
C26 A.t1 VSS 1.5122f
C27 A.t0 VSS 0.70203f
C28 A.n0 VSS 1.86083f
.ends

