* NGSPICE file created from adc_tgate_layout.ext - technology: sky130A

.subckt tg_nfet8 B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.15
.ends

.subckt tg_pfet16 B D S G
X0 S G D B sky130_fd_pr__pfet_01v8 ad=4.64 pd=32.58 as=4.64 ps=32.58 w=16 l=0.15
.ends

.subckt adc_tgate_layout A B EN ENB VDD VSS
XXN VSS B A EN tg_nfet8
XXP VDD B A ENB tg_pfet16
.ends

